US05604213
a) 3-(tert-Butyldimethylsiloxy)androsta-3,5-diene-11,17-dione
To a solution of adrenosterone (6.0 g, 20 mmol) in dry dichloromethane (120 ml) was added triethylamine (8.4 ml, 60 mmol) followed by tert-butyldimethylsilyl trifluoromethanesulfonate (5.0 ml, 22 mmol) and the mixture stirred at room temperature for 3 h. The dichloromethane was evaporated and the residue redissolved in diethyl ether (100 ml), then allowed to stand for 30 min, after which time an oil separated. The ether phase was decanted off the oil and the solvent evaporated to give the title compound which was used directly in step (b). IR νmax 1705, 1747 cm-1 ; 1H-NMR(CDCl3) inter alia δ0.12 (6H,s,Me2Si), 0.85 (3H,s,18-CH3), 0.92 (9H,s,tBuSi) 1.17(3H,s,19-CH3), 4.73 (1H,dm, J 6.9 Hz, 6-H), 5.36 (1H,m,4-H).

reactant | adrenosterone | 20 mmol, 6.0 g | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2C(=O)C[C@]4([C@H]3CCC4=O)C | C19H24O3
reactant | triethylamine | 60 mmol, 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 22 mmol, 5.0 ml | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 3-(tert-Butyldimethylsiloxy)androsta-3,5-diene-11,17-dione | O([Si](C)(C)C(C)(C)C)C1=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)=O | C25H38O3Si
